US07728029B2
N′-(Tetrahydro-pyran-4-ylidene)-hydrazinecarboxylic acid tert-butyl ester (5.210 g, 24.32 mmol) was dissolved in a mixture of dry tetrahydrofuran (22 mL) and dry methanol (30 mL). Sodium cyanoborohydride was added to the solution resulting in effervescence. When the effervescence subsided, the mixture was heated to reflux for 5-10 minutes. After cooling to room temperature 6N HCl (10.5 mL) was slowly added and then the mixture was heated to reflux for 20 minutes. After cooling to room temperature, the solvent was removed in vacuo. The residue was triturated with hot isopropanol and then cooled to room temperature, diluted with ether and chilled. The solid was collected by filtration and was found to be the reduced material but not completely deprotected. The solid was dissolved in the same THF-methanol mixture and treated with 6N HCl (10.5 mL) at reflux for another 1.5 hours. After cooling to room temperature, the reaction mixture was filtered to remove a small amount of insoluble material. The filtrate was then concentrated in vacuo. Isopropanol was added to the residue and solid quickly began to crystallize out of solution. After chilling overnight, ether was added followed by additional chilling. The solid was then collected by filtration, washed with ether and dried in vacuo to give (tetrahydro-pyran-4-yl)-hydrazine hydrochloride (2.22 g, 60%).

reactant | N′-(Tetrahydro-pyran-4-ylidene)-hydrazinecarboxylic acid tert-butyl ester | 24.32 mmol, 5.210 g | C(C)(C)(C)OC(=O)NN=C1CCOCC1 | C10H18N2O3
reactant | Sodium cyanoborohydride | C(#N)[BH3-].[Na+]
reactant | HCl | 6N, 10.5 mL | Cl | ClH
solvent | tetrahydrofuran | 22 mL | O1CCCC1 | C4H8O
solvent | methanol | 30 mL | CO | CH4O
product | (tetrahydro-pyran-4-yl)-hydrazine hydrochloride | 2.22 g, 60% | Cl.O1CCC(CC1)NN | InChI=1S/C5H12N2O.ClH/c6-7-5-1-3-8-4-2-5;/h5,7H,1-4,6H2;1H
